US06723716B1
Methyl 2-(5-Ethoxycarbonylamino-1,2,4-thiadiazol-3-yl)-bromoacetate
Into a 1 L round bottom flask was charged methyl 2-(5-ethoxycarbonylamino-1,2,4-thiadiazol-3-yl)acetate (50.0 g, 0.204 mol, 1.0 eq) followed by methanol (500 mL). The resulting slurry was cooled to 0° C. To the cooled slurry was charged a pre-made solution of bromine (9.9 mL, 0.194 mol, 0.95 eq) in methanol (100 mL) dropwise over 30 minutes maintaining the temperature between 0-5° C. The cold bath was removed and the solution was allowed to warm to room temperature and stirred for two hours. Proton NMR analysis of the reaction mixture showed reaction completion. The orange solution was evaporated to an orange oil. The orange oil was taken up in diethyl ether (400 mL) and the organic was washed with water (2×100 mL), saturated 1:1 NaHCO3/Na2S2O4 (2×100 mL) and then brine (100 mL). The clear colorless ether layer was dried with sodium sulfate, filtered and evaporated in vacuo to give 54.5 grams of the title compound as a clear colourless oil. 1H NMR (CDCl3) δ 1.38 (t, 3H); 3.98 (s, 3H); 4.55 (q, 2H); 5.81 (s, 1H).

reactant | methyl 2-(5-ethoxycarbonylamino-1,2,4-thiadiazol-3-yl)acetate | 0.204 mol, 50.0 g, 1.0 eq | C(C)OC(=O)NC1=NC(=NS1)CC(=O)OC | C8H11N3O4S
reactant | bromine | 0.194 mol, 9.9 mL, 0.95 eq | BrBr | Br2
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 500 mL | CO | CH4O
product | Methyl 2-(5-Ethoxycarbonylamino-1,2,4-thiadiazol-3-yl)-bromoacetate | 54.5 grams | C(C)OC(=O)NC1=NC(=NS1)C(C(=O)OC)Br | C8H10BrN3O4S
